US06004977
N-[2-(2-fluoro-5-methoxy-phenyl)ethylidene]-N'-pyridin-4-yl-hydrazine hydrochloride
To a solution of 1-fluoro-4-methoxy-2-(2-methoxyvinyl)benzene (20 g) and 4-hydrazinopyridine hydrochloride (17.7 g) in ethanol (300 ml), p-toluene sulfonic acid (3.13 g) was added, with stirring. The reaction mixture was stirred under reflux for 2 hrs, filtered, and the filtrate was concentrated in vacuo. The residue was recrystallized from methanol to yield 13.24 g (41%) of product, mp 219-220° C.

reactant | 1-fluoro-4-methoxy-2-(2-methoxyvinyl)benzene | 20 g | FC1=C(C=C(C=C1)OC)C=COC | C10H11FO2
reactant | 4-hydrazinopyridine hydrochloride | 17.7 g | Cl.N(N)C1=CC=NC=C1
reactant | p-toluene sulfonic acid | 3.13 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-[2-(2-fluoro-5-methoxy-phenyl)ethylidene]-N'-pyridin-4-yl-hydrazine hydrochloride | 13.24 g, 41% | Cl.FC1=C(C=C(C=C1)OC)CC=NNC1=CC=NC=C1 | InChI=1S/C14H14FN3O.ClH/c1-19-13-2-3-14(15)11(10-13)4-9-17-18-12-5-7-16-8-6-12;/h2-3,5-10H,4H2,1H3,(H,16,18);1H
